US09102673B2
Intermediate B9: 4-(Tetrahydro-2H-pyran-4-yloxy)phenol
4-(4-Tert-butoxyphenoxy)tetrahydro-2H-pyran (257 mg, 1.027 mmole) was taken up in TFA (5 mL) at RT. After 90 min the mixture was concentrated. The residue was taken up in saturated aqueous NaHCO3 and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated to give the title compound (188 mg, 94%) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 6.82 (m, 2 H); 6.77-6.73 (m, 2 H); 4.71 (s, 1 H); 4.37-4.29 (m, 1 H); 4.03-3.95 (m, 2 H); 3.55 (m, 2 H); 2.03-1.95 (m, 2 H); 1.81-1.70 (m, 2 H).

reactant | 4-(4-Tert-butoxyphenoxy)tetrahydro-2H-pyran | 1.027 mmole, 257 mg | C(C)(C)(C)OC1=CC=C(OC2CCOCC2)C=C1 | C15H22O3
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(Tetrahydro-2H-pyran-4-yloxy)phenol | 188 mg, 94% | O1CCC(CC1)OC1=CC=C(C=C1)O | C11H14O3
